US06200976B1
a. N-allyl-2-bromo-5-nitro-benzamide
To a solution of 2.5 g (0.01 mol) of 2-bromo-5-nitro-benzoic acid in 70 ml tetrahydrofuran are added dropwise 3.2 g (0.01 mol) of O-(benzotriazol-1-yl)-N,N,N′N′-tetramethyluronium-tetrafluoroborate, 5 ml triethylamine and a solution of 570 mg (0.01 mol) of allylamine in 5 ml tetrahydrofuran. After 60 minutes at ambient temperature the mixture is poured onto ice water, the product precipitated is suction filtered, washed with water and dried.

reactant | 2-bromo-5-nitro-benzoic acid | 0.01 mol, 2.5 g | BrC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | allylamine | 0.01 mol, 570 mg | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-allyl-2-bromo-5-nitro-benzamide | C(C=C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])Br)=O | C10H9BrN2O3
